US05519034
A mixture of 7-benzyloxy-6-methoxy-1-[1-(2-methylthiophenyl)cyclobutyl]-1,2,3,4-tetrahydroisoquinoline. (1.89 g), 37% aqueous formaldehyde solution (3 ml), methanol (30 ml) and sodium cyanoborohydride (0.5 g) was stirred at ambient temperature for 24 hours. The mixture was poured onto water (100 ml) and extracted with dichloromethane (300 ml). The extract was washed with dilute aqueous ammonia solution to yield a residue which was dissolved in propan-2-ol and treated with 48% aqueous hydrobromic acid. The solvent was removed by evaporation to yield 7-benzyloxy-6-methoxy-2-methyl-1-[1-(2-methylthiophenyl)cyclobutyl]-1,2,3,4-tetrahydroisoquinoline which was used without further purification.

reactant | 7-benzyloxy-6-methoxy-1-[1-(2-methylthiophenyl)cyclobutyl]-1,2,3,4-tetrahydroisoquinoline | C(C1=CC=CC=C1)OC1=C(C=C2CCNC(C2=C1)C1(CCC1)C1=C(C=CC=C1)SC)OC | C28H31NO2S
reactant | formaldehyde | 3 ml | C=O | CH2O
reactant | sodium cyanoborohydride | 0.5 g | C(#N)[BH3-].[Na+]
reactant | hydrobromic acid | Br | BrH
solvent | propan-2-ol | CC(C)O | C3H8O
solvent | methanol | 30 ml | CO | CH4O
product | 7-benzyloxy-6-methoxy-2-methyl-1-[1-(2-methylthiophenyl)cyclobutyl]-1,2,3,4-tetrahydroisoquinoline | C(C1=CC=CC=C1)OC1=C(C=C2CCN(C(C2=C1)C1(CCC1)C1=C(C=CC=C1)SC)C)OC | C29H33NO2S
